US08975254B2
b) Ethyl 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylate
Into a suspension containing lithium (Z)-4-(1-benzyl-1H-imidazol-4-yl)-1-ethoxy-1,4-dioxobut-2-en-2-olate (3.0 g, 9.80 mmol) and ethanol (20 ml), hydrazine dihydrochloride (1.337 g, 12.74 mmol) was added and the resulting mixture was refluxed for 3 h with stirring. The mixture was allowed to cool to RT and the mixture was evaporated. The residue was suspended in ethanol, stirred and filtered. The precipitate was washed with cold ethanol and dried with vacuum at 40° C. 1H-NMR (400 MHz; d6-DMSO): 6, 1.31 (t, 3H), 4.33 (q, 2H), 5.82 (s, 2H), 7.18-7.37 (m, 6H), 8.19 (s, 1H), 9.42 (s, 1H), 14.53 (bs, 1H).

reactant | lithium (Z)-4-(1-benzyl-1H-imidazol-4-yl)-1-ethoxy-1,4-dioxobut-2-en-2-olate | 9.80 mmol, 3.0 g | C(C1=CC=CC=C1)N1C=NC(=C1)C(\C=C(\C(=O)OCC)/[O-])=O.[Li+]
reactant | hydrazine dihydrochloride | 12.74 mmol, 1.337 g | Cl.Cl.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylate | C(C1=CC=CC=C1)N1C=NC(=C1)C1=NNC(=C1)C(=O)OCC | C16H16N4O2
